US08633173B2
2-(4-{4-[8-(4-Fluoro-phenyl)-[1,2,4]-triazolo[1,5-a]pyridin-2-ylamino]-phenyl}-piperidin-1-yl)-N,N-dimethyl-acetamide was prepared from [8-(4-fluoro-phenyl)-[1,2,4]-triazolo[1,5-a]pyridin-2-yl]-(4-piperidin-4-yl-phenyl)-amine (0.092 g, 0.240 mmol) and 2-chloro-N,N-dimethyl-acetamide (0.037 mL, 0.360 mmol) in a manner analogous to Example 313 to give product (0.035 g, 31%). MP=209-212° C. 1H NMR (400 MHz, (D3C)2SO, δ, ppm): 9.64 (s, 1H), 8.79 (d, 1H), 8.22 (m, 2H), 7.82 (d, 1H), 7.60 (d, 2H), 7.35 (m, 2H), 7.12 (m, 3H), 3.13 (s, 2H), 3.05 (s, 3H), 2.92 (m, 2H), 2.82 (s, 3H), 2.40 (m, 1H), 2.12 (m, 2H), 1.64-1.70 (br m, 4H). MS=473 (MH)+.

reactant | [8-(4-fluoro-phenyl)-[1,2,4]-triazolo[1,5-a]pyridin-2-yl]-(4-piperidin-4-yl-phenyl)-amine | 0.240 mmol, 0.092 g | FC1=CC=C(C=C1)C=1C=2N(C=CC1)N=C(N2)NC2=CC=C(C=C2)C2CCNCC2 | C23H22FN5
reactant | 2-chloro-N,N-dimethyl-acetamide | 0.360 mmol, 0.037 mL | ClCC(=O)N(C)C | C4H8ClNO
product | 2-(4-{4-[8-(4-Fluoro-phenyl)-[1,2,4]-triazolo[1,5-a]pyridin-2-ylamino]-phenyl}-piperidin-1-yl)-N,N-dimethyl-acetamide | FC1=CC=C(C=C1)C=1C=2N(C=CC1)N=C(N2)NC2=CC=C(C=C2)C2CCN(CC2)CC(=O)N(C)C | C27H29FN6O
